US06069149
0.19 g (0.560 mmol) of methyl 4-[α-(2-dimethylaminoethoxy)benzyl]cinnamate was dissolved in 4 ml of methanol and 13 mg (0.056 mmol) of nickel chloride hexahydrate was then added. Forty-two mg (1.12 mmol) of sodium boronhydride was further added thereto under ice-cooling in divided portions for 1 hour and stirred for further 45 minutes. The reaction mixture was filtered and the filtrate was concentrated. The resulting residue was dissolved in chloroform and washed with water and brine. After the organic phase was dried (MgSO4), the solvent was distilled off and the residue was purified by silica gel column chromatography (chloroform:methanol=50:1 (v/v)) to obtain 0.10 g (0.293 mmol) of methyl 3-{4-[α-(2-dimethylaminoethoxy)benzyl]phenyl}propionate as a colorless oily substance. Its spectroscopic data are as follows:

reactant | methyl 4-[α-(2-dimethylaminoethoxy)benzyl]cinnamate | 0.560 mmol, 0.19 g | CN(CCOC(C1=CC=CC=C1)C1=CC=C(C=CC(=O)OC)C=C1)C | C21H25NO3
reactant | sodium | 1.12 mmol, Forty-two mg | [Na] | Na
solvent | methanol | 4 ml | CO | CH4O
catalyst | nickel chloride hexahydrate | 0.056 mmol, 13 mg | O.O.O.O.O.O.[Ni](Cl)Cl
product | methyl 3-{4-[α-(2-dimethylaminoethoxy)benzyl]phenyl}propionate | 0.293 mmol, 0.10 g | CN(CCOC(C1=CC=CC=C1)C1=CC=C(C=C1)CCC(=O)OC)C | C21H27NO3
